US06867198B2
3-(7-chloro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione
Beginning with indole-3-acetamide and (7-chloro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | indole-3-acetamide | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | (7-chloro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CCCC3=C(C=CC1=C23)Cl)=O | C14H12ClNO3
product | 3-(7-chloro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | ClC1=C2CCCN3C2=C(C=C1)C(=C3)C=3C(NC(C3C3=CNC1=CC=CC=C31)=O)=O | C23H16ClN3O2
